US09102591B2
(2-(2-Methylpyrimidin-5-yl)tetrahydrofuran-2-yl)methanamine
2-(2-Methylpyrimidin-5-yl)tetrahydrofuran-2-carbonitrile (18 mg, 0.095 mmol) was dissolved in MeOH(5 ml) and 7M NH3 in MeOH (1 ml). Argon was bubbled through the solution. Raney Nickel (6 mg, 0.1 mmol) was added and the flask was fitted with a H2-balloon and stirred at room temperature for 1½ hour. Reaction was filtred through a plug of celite and concentrated in vacuo. Used for next step without further purification. LC-MS (m/z) 194.0 (MH+), tR (minutes, Method D)=0.17.

reactant | 2-(2-Methylpyrimidin-5-yl)tetrahydrofuran-2-carbonitrile | 0.095 mmol, 18 mg | CC1=NC=C(C=N1)C1(OCCC1)C#N | C10H11N3O
reactant | NH3 | 7M | N | H3N
solvent | MeOH | 5 ml | CO | CH4O
solvent | MeOH | 1 ml | CO | CH4O
catalyst | Raney Nickel | 0.1 mmol, 6 mg | [Ni] | Ni
product | (2-(2-Methylpyrimidin-5-yl)tetrahydrofuran-2-yl)methanamine | CC1=NC=C(C=N1)C1(OCCC1)CN | C10H15N3O
